* C:\Users\ewang\Documents\GitHub\circuits-tone-generator\RingOscillator.asc
V§Bias N002 0 0.31
Vdd P001 0 5
XU1 P001 vdd
XX1 N001 N002 P002 P003 0 currentstarvedinverter
XX2 P003 N002 P004 P005 0 currentstarvedinverter
XX3 P005 N002 P006 N001 0 currentstarvedinverter
XU3 P002 vdd
XU4 P004 vdd
XU5 P006 vdd

* block symbol definitions
.subckt currentstarvedinverter Vin Vb Vdd Vout GND
XU1 Vout Vin P001 nmos3
XU2 P001 Vb 0 nmos3
XU3 Vout Vin P002 pmos3
XU4 P002 N001 Vdd pmos3
XU5 N001 N001 Vdd pmos3
XU6 N001 Vb 0 nmos3
.include engr2420.sub
.ends currentstarvedinverter

.tran 0 1000m 0 100u
.include engr2420.sub
.step param Bias 0.2 0.5 0.1
.param Bias 0.3
.backanno
.end
